US06713502B2
Preparation of 5-Furan-2-yl-2-(1H-imidazol-4-ylmethyl)-1-(1-o-tolyl-methanoyl)-pyrrolidine-2,4-dicarboxylic acid
Following the procedure of Example 28(a)-28(d), except beginning with Wang bound Fmoc-L-histidine (Trt) instead of Wang bound Fmoc-L-leucine, and substituting furan-2-carboxaldehyde for thiophene-2-carboxaldehyde, and substituting o-toluoyl chloride for 3,4-dichlorobenzoyl chloride, the title compound was prepared as a solid. MS [M+H]+424.4

reactant | Fmoc-L-histidine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CNC=N1)C(=O)O | C21H19N3O4
reactant | Fmoc-L-leucine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC(C)C)C(=O)O | C21H23NO4
reactant | thiophene-2-carboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | 3,4-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
product | 5-Furan-2-yl-2-(1H-imidazol-4-ylmethyl)-1-(1-o-tolyl-methanoyl)-pyrrolidine-2,4-dicarboxylic acid | O1C(=CC=C1)C1C(CC(N1C(=O)C1=C(C=CC=C1)C)(C(=O)O)CC=1N=CNC1)C(=O)O | C22H21N3O6
